US08871753B2
Step E. tert-Butyl {5-[2-(3-aminophenyl)ethyl]-2-methyl-4-morpholin-4-ylphenyl}carbamate
tert-Butyl {5-[(3-aminophenyl)ethynyl]-2-methyl-4-morpholin-4-ylphenyl}carbamate (62 mg, 0.15 mmol) was stirred in methanol (2 mL) and 10% palladium on carbon (50 mg). The mixture was stirred under a balloon pressure of hydrogen gas for 3 hours. The mixture was filtered through celite and evaporated to give the desired compound (63 mg, 100%). LCMS for C24H34N3O3 (M+H)+: m/z=412.1.

reactant | tert-Butyl {5-[(3-aminophenyl)ethynyl]-2-methyl-4-morpholin-4-ylphenyl}carbamate | 0.15 mmol, 62 mg | NC=1C=C(C=CC1)C#CC=1C(=CC(=C(C1)NC(OC(C)(C)C)=O)C)N1CCOCC1 | C24H29N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | tert-Butyl {5-[2-(3-aminophenyl)ethyl]-2-methyl-4-morpholin-4-ylphenyl}carbamate | 63 mg, 100% | NC=1C=C(C=CC1)CCC=1C(=CC(=C(C1)NC(OC(C)(C)C)=O)C)N1CCOCC1 | C24H33N3O3
